US08557809B2
Step F: Preparation of (E)-1-((8-bromo-6-fluoroquinolin-2-yl)methylene)-2-(pyridin-2-yl)hydrazine
8-Bromo-6-fluoroquinoline-2-carbaldehyde (100 mg, 0.39 mmol) and 1-(pyridin-2-yl)hydrazine (43 mg, 0.39 mmol) were dissolved in 15 mL of absolute EtOH, and heated to reflux for 2 hours, at which time all starting material had been consumed. The reaction was then cooled to ambient temperature, and the yellow/orange product was collected by filtration (wash EtOH), affording (100 mg, 73.6% yield) as a yellow solid. MS APCI (+) m/z 345.1 and 347 (M+1 of each Br isotope) detected.

reactant | 8-Bromo-6-fluoroquinoline-2-carbaldehyde | 0.39 mmol, 100 mg | BrC=1C=C(C=C2C=CC(=NC12)C=O)F | C10H5BrFNO
reactant | 1-(pyridin-2-yl)hydrazine | 0.39 mmol, 43 mg | N1=C(C=CC=C1)NN | C5H7N3
solvent | EtOH | 15 mL | CCO | C2H6O
product | (E)-1-((8-bromo-6-fluoroquinolin-2-yl)methylene)-2-(pyridin-2-yl)hydrazine | 73.6% yield | BrC=1C=C(C=C2C=CC(=NC12)\C=N\NC1=NC=CC=C1)F | C15H10BrFN4
